US04472383
N-Carbobenzoxy-L-alanine (11.4 g) and triethylamine (6.7 ml) are dissolved in 100 ml of tetrahydrofuran and under stirring at -10° C., 6.5 ml of isobutyl chlorocarbonate is added in small portions. Then, at -10° C. to -5° C., a solution of N-cyclopentylglycine ethyl ester hydrochloride (10 g) and triethylamine (6.7 ml) in chloroform (100 ml) is added and the mixture is allowed to stand at room temperature overnight. The reaction mixture is filtered and the filtrate is concentrated. To the residue is added 300 ml of water, followed by extraction with 200 ml of ethyl acetate. The ethyl acetate layer is washed with 5% hydrochloric acid, aqueous sodium hydrogen carbonate and water in that order and dried over sodium sulfate. Removal of the solvent by distillation gives an oil, which is separated and purified by column chromatography using 150 g of silica gel. The fractions eluted with toluene-ethyl acetate (5:1) are collected to give 11 g of N-carbobenzoxy-L-alanyl-N-cyclopentylglycine ethyl ester as an oil. This product (10 g) is dissolved in 100 ml of ethanol, then 16 ml of 2N sodium hydroxide is added, and the mixture is stirred at room temperature for 5 hours. The reaction mixture is concentrated and the concentrate is diluted with 100 ml of water and acidified with 10% hydrochloric acid, whereupon an oil separates out. This oil is extracted with 300 ml of ethyl acetate and the extract is washed with water, dried and concentrated to give 8 g of N-carbobenzoxy-L-alanyl-N-cyclopentylglycine as colorless oil.

reactant | N-Carbobenzoxy-L-alanine | 11.4 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
reactant | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chlorocarbonate | 6.5 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | N-cyclopentylglycine ethyl ester hydrochloride | 10 g | Cl.C(C)OC(CNC1CCCC1)=O
reactant | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-carbobenzoxy-L-alanyl-N-cyclopentylglycine ethyl ester | 11 g | C(C)OC(CN(C1CCCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C20H28N2O5
